US04064106
n-Butyl bromide was reacted with the ammonium salt of dicyclohexylphosphinodithioic acid to obtain n-butyl dicyclohexylphosphinodithioate, a viscous liquid, b.p. 167°-175° C at 0.15 mm., which on testing lasted 900 hours longer than the control. The total number of hours required to reach failure was 2.8 times that of the control.

reactant | n-Butyl bromide | C(CCC)Br | C4H9Br
reactant | dicyclohexylphosphinodithioic acid | C1(CCCCC1)P(=S)(S)C1CCCCC1 | C12H23PS2
product | n-butyl dicyclohexylphosphinodithioate | C1(CCCCC1)P(=S)(SCCCC)C1CCCCC1 | C16H31PS2
